US09085583B2
To a solution of 2-methyl-1-phenyl-1H-indole-3-carboxylic acid (115 mg, 0.46 mmol) in anhydrous dichloromethane (3 mL) was added 1H-benzo[d][1,2,3]triazol-1-ol (75 mg, 0.55 mmol), 1-Ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (106 mg, 0.55 mmol) and triethylamine (0.16 mL, 1.15 mmol). The mixture was stirred at room temperature for half an hour, 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (70 mg, 0.46 mmol) was added and stirred at room temperature for 3 hours. The reaction mixture was added water (20 mL), extracted with dichloromethane (20 mL×2), combined and concentrated the organic layers to give the residue, which was purified by column chromatography (silica gel, dichloromethane/methanol=25:1) to afford N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-phenyl-1H-indole-3-carboxamide (12 mg, 50% yield. LRMS (M+H+) m/z: calcd for 385.18. found 385. 1H NMR (300 MHz, CDCl3) δ 12.62 (s, 1H), 7.89 (d, J=8.0 Hz, 1H), 7.77-7.40 (m, 3H), 7.43-7.18 (m, 3H), 7.22-7.00 (m, 2H), 5.98 (s, 1H), 4.65 (s, 2H), 2.60-2.52 (m, 3H), 2.45 (s, 3H), 2.25 (s, 3H).

reactant | 2-methyl-1-phenyl-1H-indole-3-carboxylic acid | 0.46 mmol, 115 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C16H13NO2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 0.55 mmol, 75 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | triethylamine | 1.15 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.46 mmol, 70 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-phenyl-1H-indole-3-carboxamide | 50% yield | OC1=NC(=CC(=C1CNC(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)C)C)C | C24H23N3O2
